US06956047B1
(6-Chloro-2,5-dimethylpyrimidin-4-yl)-(2,4,6-trimethylphenyl)-acetonitrile
To a solution of mesitylacetonitrile (0.900 g, 5.65 mmol) in 8 ml dry THF was added sodium hydride (60% in oil, 0.250 g, 6.21 mmol) and the mixture was stirred at room temperature for 40 minutes. 2,5-Dimethyl-4,6-dichloropyrimidine (1.000 g, 5.65 mmol) was added and the resulting mixture was heated at reflux for 5 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give 1.800 g of a yellow oil. The oil residue was purified through silica gel column chromatography using 10% ethyl acetate in hexane as eluent to give 0.986 g (58.3%) of the title compound as a white solid, mp 100-102° C. 1H NMR (CDCl3) δ 6.86 (s, 2H), 5.60 (s, 1H), 2.69 (s, 3H), 2.25 (s, 3H), 2.18 (s, 6H), 1.92 (s, 3H) ppm.

reactant | mesitylacetonitrile | 5.65 mmol, 0.900 g | C1(=C(C(=CC(=C1)C)C)CC#N)C | C11H13N
reactant | sodium hydride | 6.21 mmol, 0.250 g | [H-].[Na+]
reactant | 2,5-Dimethyl-4,6-dichloropyrimidine | 5.65 mmol, 1.000 g | CC1=NC(=C(C(=N1)Cl)C)Cl | C6H6Cl2N2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (6-Chloro-2,5-dimethylpyrimidin-4-yl)-(2,4,6-trimethylphenyl)-acetonitrile | 1.800 g | ClC1=C(C(=NC(=N1)C)C(C#N)C1=C(C=C(C=C1C)C)C)C | C17H18ClN3
